US09388197B2
A.2.5.2. Synthesis of 2-chloro-3-cyanobenzylamine
To a soln. of 3-(bromomethyl)-2-chlorobenzonitrile (0.87 mmol) in 9 mL DMF was added NaN3 (1.3 mmol) and the resulting brown solution was stirred at RT for 20 min. The reaction mixture was diluted with EtOAc, washed twice with water and brine, dried over MgSO4 and concentrated in vacuo. The crude azide was redissolved in 4.3 mL THF and 0.1 mL water. Triphenylphosphine (1.04 mmol) was added and the mixture was stirred at RT overnight. The reaction mixture was acidified with 0.1; N HCl soln. until pH 3 and it was extracted 3 times with Et2O. The aq. phase was basified with 1M NaOH soln. and extracted 3 times with DCM. The comb. org. layers were dried over MgSO4 and conc. in vacuo to give the desired product as yellowish oil.

reactant | 3-(bromomethyl)-2-chlorobenzonitrile | 0.87 mmol | BrCC=1C(=C(C#N)C=CC1)Cl | C8H5BrClN
reactant | NaN3 | 1.3 mmol | [N-]=[N+]=[N-].[Na+]
reactant | Triphenylphosphine | 1.04 mmol | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | HCl | Cl | ClH
solvent | DMF | 9 mL | CN(C)C=O | C3H7NO
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 2-chloro-3-cyanobenzylamine | ClC1=C(CN)C=CC=C1C#N | C8H7ClN2
